US08445510B2
trans-4-(4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-3,5-dimethyl-1H-pyrazol-1-yl)cyclohexanol
A mixture of 3-[(S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine (30.0 mg, 0.0696 mmol), 1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-4-iodo-3,5-dimethyl-1H-pyrazole (60.5 mg, 0.139 mmol), Pd(PPh3)4 (4.02 mg, 0.00348 mmol), NaHCO3 (17.6 mg, 0.209 mmol) and 4:1 dioxane:water was heated to 80° C. overnight. 2 M of HCl in H2O (0.5 mL, 1 mmol) was added, and the solution was stirred at rt for 1 h. The material was concentrated in vacuo, redissolved in MeOH (1 mL) and passed through a syringe filter pad for HPLC purification. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ=1.42-1.57 (m, 2H), 1.80 (d, J=7.1 Hz, 3H), 1.87-2.02 (m, 3H), 2.03 (s, 3H), 2.04-2.12 (m, 3H), 2.14 (s, 3H), 3.64 (br. s., 3H), 3.66-3.72 (m, 1H), 4.11 (tt, J=11.5, 3.9 Hz, 1H), 5.04-5.14 (m, 1H), 6.89 (dd, J=9.2, 4.2 Hz, 1H), 7.08 (t, J=8.8 Hz, 1H), 7.28 (s, 1H), 7.35 (d, J=1.3 Hz, 1H), 7.95 (br. s., 1H). MS (ES+): m/z=497.21/499.21 (100/50) [MH+]. HPLC: tR=1.40 min (polar—3 min, UPLC-ACQUITY).

reactant | 3-[(S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | 0.0696 mmol, 30.0 mg | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C | C22H25BClFN2O3
reactant | 1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-4-iodo-3,5-dimethyl-1H-pyrazole | 0.139 mmol, 60.5 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1N=C(C(=C1C)I)C | C17H31IN2OSi
reactant | NaHCO3 | 0.209 mmol, 17.6 mg | C(=O)(O)[O-].[Na+]
reactant | HCl | 2 M | Cl | ClH
catalyst | Pd(PPh3)4 | 0.00348 mmol, 4.02 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | H2O | 1 mmol, 0.5 mL | O | H2O
product | trans-4-(4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-3,5-dimethyl-1H-pyrazol-1-yl)cyclohexanol | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C(=NN(C2C)[C@@H]2CC[C@H](CC2)O)C | C27H30ClFN4O2
